US04348399
As described in Example 33, a sample of 4-hexadecylaminophenylpropiolamide is treated successively with hydrogen chloride gas and refluxing thionyl chloride to afford 4-(hexadecylamino)phenylpropiolnitrile. Similarly prepared is 4-(4-hexadecylaminophenyl)butyronitrile.

reactant | 4-hexadecylaminophenylpropiolamide | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=C1)C#CC(=O)N | C25H40N2O
reactant | hydrogen chloride | Cl | ClH
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-(hexadecylamino)phenylpropiolnitrile | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=C1)C#CC#N | C25H38N2
